US06117873
c) 7-Trifluoromethyl-5-methyl-1,4-dihydroquinoxaline-2,3-dione
355 ml of a 15% titanium trichloride solution in aqueous hydrochloric acid are dissolved in 850 ml of water and 850 ml of acetone under a nitrogen atmosphere at 0° C. A solution of 35.5 g (110.8 mmol) of ethyl N-(2-methyl-6-nitro-4-trifluoromethylphenyl)oxamate in 1.7 1 of acetone is slowly added dropwise. The resulting violet solution is stirred at 0° C. for 16 hours. 15% titanium trichloride solution in aqueous hydrochloric acid is then added until, according to 1H-NMR analysis, starting material is no longer detectable. The reaction mixture is filtered off on a suction filter, the filtrate is concentrated and the deposited solid is filtered off again on a suction filter. The crude product is washed with dilute hydrochloric acid and water. The title compound is obtained as a white solid.

reactant | acetone | 850 ml | CC(=O)C | C3H6O
reactant | ethyl N-(2-methyl-6-nitro-4-trifluoromethylphenyl)oxamate | 110.8 mmol, 35.5 g | CC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC(C(=O)OCC)=O | C12H11F3N2O5
solvent | hydrochloric acid | Cl | ClH
solvent | water | 850 ml | O | H2O
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 7-Trifluoromethyl-5-methyl-1,4-dihydroquinoxaline-2,3-dione | FC(C1=CC(=C2NC(C(NC2=C1)=O)=O)C)(F)F | C10H7F3N2O2
